US05413999
Step 2: Preparation of 5(S)-hydroxymethyl-3(R)-phenylmethyl-2-pyrrolidinone
To 130 mg (0.34 mmol) of 5(S)-((t-butyl-dimethylsilyloxy)methyl)-3(R)-phenylmethyl-N-BOC-2-pyrrolidinone in 5 ml of acetonitrile was added 0.1 ml of a solution of 48% HF in water. After 3 hr at room temperature the reaction was concentrated to dryness and diluted with 30 ml of an aqueous 10% NaHCO3 solution. This was extracted with EtOAc (2×30 ml), dried filtered and concentrated to afford the crude product.

reactant | 5(S)-((t-butyl-dimethylsilyloxy)methyl)-3(R)-phenylmethyl-N-BOC-2-pyrrolidinone | 0.34 mmol, 130 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@H](C(N1C(=O)OC(C)(C)C)=O)CC1=CC=CC=C1 | C23H37NO4Si
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 5(S)-hydroxymethyl-3(R)-phenylmethyl-2-pyrrolidinone | OC[C@@H]1C[C@H](C(N1)=O)CC1=CC=CC=C1 | C12H15NO2
